US08604029B2
Oxalyl chloride (2.23 mL, 25.9 mmol) was added to an ice-cold solution of 2-phenylindolizine (4.0 g, 20.7 mmol) in a mixture of toluene (40 mL) and THF (8 mL). The reaction mixture was stirred at r.t. for 5 h then concentrated in vacuo. The residue obtained was recrystallised from DCM-hexane to yield oxo-(2-phenyl-indolizin-3-yl)-acetyl chloride (4.6 g, 80%) as a solid.

reactant | Oxalyl chloride | 25.9 mmol, 2.23 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-phenylindolizine | 20.7 mmol, 4.0 g | C1(=CC=CC=C1)C=1C=C2C=CC=CN2C1 | C14H11N
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | oxo-(2-phenyl-indolizin-3-yl)-acetyl chloride | 4.6 g, 80% | O=C(C(=O)Cl)C1=C(C=C2C=CC=CN12)C1=CC=CC=C1 | C16H10ClNO2
